US08357711B2
2-(3,5-Difluoro-phenyl)-propan-2-ol
A solution of 1-(3,5-difluoro-phenyl)-ethanone (156 g, 1 mol, 1 eq) in THF (500 mL) was added dropwise under argon to the commercially available solution of methymagnesium bromide (143 g, 1.2 mol, 1.2 eq) in THF at such a rate that gentle refluxing was maintained. After the addition was complete the reaction mixture was stirred at ambient temperature for an hour and poured into ice-cold aqueous saturated ammonium chloride. Phases were separated and aqueous layer extracted two times with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. After removal of the solvent title compound was purified by distillation under reduced pressure (145 g, 0.84 mol, 84%).

reactant | 1-(3,5-difluoro-phenyl)-ethanone | 1 mol, 156 g, 1 eq | FC=1C=C(C=C(C1)F)C(C)=O | C8H6F2O
reactant | methymagnesium bromide | 1.2 mol, 143 g, 1.2 eq | C[Mg]Br
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Difluoro-phenyl)-propan-2-ol | FC=1C=C(C=C(C1)F)C(C)(C)O | C9H10F2O
